US05455260
To a cooled (0° C.) solution of 2-allyloxyethylbenzene (5. g; 30.8 mmol) dissolved in THF (75 ml) is slowly added a 0.5M THF solution of 9-BBN [9-borabicyclo [3.3.1]nonane] (68 ml; 34 mmol) and the reaction mixture warmed to room temperature and stirred for 4 hours. The reaction mixture is then cooled to 0° C. and 5 ml H2O is added followed by slow addition of 6N NaOH (30 ml; 7.2 g/30 ml). After stirring for 5 minutes, 30% H2O2 (20 ml) is added over 15 min. The reaction mixture warms significantly but is kept from refluxing. After addition is complete, it is stirred for 15 minutes allowing the mixture to come to room temperature. It is then diluted with. Et2O, washed with H2O 2×, Na2S2O3 2×, NaHCO3 and brine, dried (MgSO4) and concentrated to dryness. The residue is purified by column chromatography using Et2O to obtain 3-(2-phenylethoxy)-1-propanol which is used directly in Step C.

reactant | 2-allyloxyethylbenzene | 30.8 mmol | C(C=C)OCCC1=CC=CC=C1 | C11H14O
reactant | 9-BBN | 34 mmol, 68 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | NaOH | 6N, 30 ml, 7.2 g | [OH-].[Na+]
reactant | H2O2 | 20 ml | OO | H2O2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5M | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
product | 3-(2-phenylethoxy)-1-propanol | C1(=CC=CC=C1)CCOCCCO | C11H16O2
